US05362742
A mixture of 3-(3,4-diacetoxycinnamoylamino)-4-(2chlorophenyl)-6,8-dimethylquinoline (4.0 g), potassium carbonate (3.13 g) and dioxane-methanol-water (2:2:1, 50 ml) was stirred at room temperature for 3 hours in a stream of argon gas, then diluted with water. After being adjusted to pH 4 by addition of 2N hydrochloric acid, the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4). The solvent was removed, and the residue was crystallized from isopropyl ether to give crystals of 4-(2-chlorophenyl)-3-(3,4-dihydroxycinnamoylamino)-6,8-dimethylquinoline (2.7 g, 80.4%). The crystals were recrystallized from ethyl acetate to afford pale yellowish prisms.

reactant | 3-(3,4-diacetoxycinnamoylamino)-4-(2chlorophenyl)-6,8-dimethylquinoline | 4.0 g | C(C)(=O)OC=1C=C(C=CC(=O)NC=2C=NC3=C(C=C(C=C3C2C2=C(C=CC=C2)Cl)C)C)C=CC1OC(C)=O | C30H25ClN2O5
reactant | potassium carbonate | 3.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane-methanol water | 50 ml | O1C(COCC1)CO.O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
product | 4-(2-chlorophenyl)-3-(3,4-dihydroxycinnamoylamino)-6,8-dimethylquinoline | 2.7 g, 80.4% | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)NC(C=CC1=CC(=C(C=C1)O)O)=O | C26H21ClN2O3
